US09023840B2
Step 3: 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide
4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide (1.74 g, 3.05 mmol) was dissolved in methylene chloride (5.0 mL) and trifluoroacetic acid (5.0 mL, 26 mmol) and stirred at room temperature After 4 hours, LC/MS data indicated that the reaction was complete and the desired product was formed (LCMS (M+H)+: m/z=471.3). The volatiles were removed in vacuo and the residue was azeotropically washed with acetonitrile several times (4×10 mL) to remove the excess TFA. The residue was dissolved in methanol (15 mL) and to this was added 14.8 M ammonium hydroxide in H2O (3.0 mL, 44 mmol) and ethylenediamine (0.10 mL, 1.5 mmol) and the resulting solution was stirred at room temperature for 3 hours to afford the desired product. The product was further precipitated out as a white solid by the addition of H2O (15 mL) and the heterogeneous solution was stirred for 30 minutes prior to pouring into water (60 mL). The precipitate was filtered off, washed with water (2×10 mL), and dried under high vacuum to afford the desired product (1.05 g, 78% yield). LCMS (M+H)+: m/z=441.1. 1H NMR (400 MHz, CD3OD): δ 8.78 (s, 1H), 8.66 (s, 1H), 8.42 (s, 1H), 7.99 (d, J=8.0 Hz, 1H), 7.75 (d, J=8.5 Hz, 2H), 7.50 (d, J=4.0 Hz, 1H), 7.00 (d, J=4.0 Hz, 1H), 6.64 (t, J=8.5 Hz, 2H), 4.55 (d, J=8.0 Hz, 2H), 4.40 (d, J=8.0 Hz, 2H), 4.19 (m, 1H), 3.62 (s, 2H), 1.22 (d, J=7.0 Hz, 6H).

reactant | 4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide | 3.05 mmol, 1.74 g | C(#N)CC1(CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C30H38N8O2Si
reactant | trifluoroacetic acid | 26 mmol, 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide | C(#N)CC1(CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C24H24N8O
